US09238647B2
Step B: Methyl 6-amino-4′-fluoro-5-hydroxybiphenyl-3-carboxylate
To a mixture of methyl 4-amino-3-bromo-5-hydroxybenzoate (1.0 g, 4.06 mmol), (4-fluorophenyl)-boronic acid (0.85 g, 6.1 mmol), 3,3′,3″-phosphinidynetris (benzensulfonic acid) trisodium salt (195.0 mg, 0.31 mmol), palladium(II) acetate (23.0 mg, 0.10 mmol) and diisopropylamine (0.58 mL, 4.06 mmol) were added N,N-dimethylformamide (15.2 mL) and water (5.1 mL). The mixture was heated to 80° C. After 18 h, the mixture was cooled to ambient temperature and ethyl acetate was added. The organic layer was washed with water (3×), brine, dried over magnesium sulfate, filtered and concentrated. Purification by silica gel chromatography (100% hexanes→50% hexanes/ethyl acetate) gave the title compound (0.27 g). LC-MS [M+1]=262.2.

reactant | methyl 4-amino-3-bromo-5-hydroxybenzoate | 4.06 mmol, 1.0 g | NC1=C(C=C(C(=O)OC)C=C1O)Br | C8H8BrNO3
reactant | (4-fluorophenyl)-boronic acid | 6.1 mmol, 0.85 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 3,3′,3″-phosphinidynetris (benzensulfonic acid) trisodium salt | 0.31 mmol, 195.0 mg | [Na+].[Na+].[Na+].P(C=1C=C(C=CC1)S(=O)(=O)[O-])(C=1C=C(C=CC1)S(=O)(=O)[O-])C=1C=C(C=CC1)S(=O)(=O)[O-]
reactant | diisopropylamine | 4.06 mmol, 0.58 mL | C(C)(C)NC(C)C | C6H15N
catalyst | palladium(II) acetate | 0.10 mmol, 23.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 5.1 mL | O | H2O
solvent | N,N-dimethylformamide | 15.2 mL | CN(C=O)C | C3H7NO
product | Methyl 6-amino-4′-fluoro-5-hydroxybiphenyl-3-carboxylate | 0.27 g | NC1=C(C=C(C=C1C1=CC=C(C=C1)F)C(=O)OC)O | C14H12FNO3
